US07855292B2
E. 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-bromo-N-methyl-N-Phenethyl-benzamide
2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-bromobenzoic acid was coupled with N-methylphenethylamine as in EXAMPLE 1, Part C. HPLC: RT=9.90 min. MS (ESI−): mass calcd. for C22H19BrN4O3S2, 530.01; m/z found, 529/531 [M−H]−. 1H NMR (400 MHz, CDCl3; rotameric broadening): 8.95-8.80 (br s, 0.6H), 8.57-8.43 (br s, 0.4H), 8.27 (dd, J=7.0, 0.9, 1H), 8.23 (br d, J=8.8, 1H), 7.80-7.64 (m, 2H), 7.37-6.85 (br m, 6H), 6.73-6.62 (br m, 0.6H), 6.55-6.40 (br m, 0.4H), 3.68-3.35 (br m, 1.3H), 3.35-3.07 (br m, 0.7H), 3.07-2.25 (br m, 5H).

reactant | 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-bromobenzoic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)O)C=CC(=C2)Br | C13H8BrN3O4S2
reactant | N-methylphenethylamine | CNCCC1=CC=CC=C1 | C9H13N
product | 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-bromo-N-methyl-N-Phenethyl-benzamide | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)N(CCC1=CC=CC=C1)C)C=CC(=C2)Br | C22H19BrN4O3S2
